US07687638B2
5-(2-Chloro-phenyl)-2,3-dimethyl-3H-benzoimidazole-4-carbonitrile
A solution of 4-Amino-2′-chloro-3-methylamino-biphenyl-2-carbonitrile (intermediate in the preparation of Example 8B) in AcOH (10 mL) and HCl (1 mL) was refluxed for 1 hour. The residue was diluted with water and extracted with AcOEt, and then washed with saturated NaHCO3 aqueous solution. The organics were dried over MgSO4 and the solvent removed in vacuo to give crude product, which used for the next step without further purification. MS (ES) [m+H] calc'd for C16H12ClN3, 281.1; found, 281.1.

reactant | 4-Amino-2′-chloro-3-methylamino-biphenyl-2-carbonitrile | NC=1C(=C(C(=CC1)C1=C(C=CC=C1)Cl)C#N)NC | C14H12ClN3
reactant | HCl | 1 mL | Cl | ClH
reactant | AcOH | 10 mL | CC(=O)O | C2H4O2
solvent | water | O | H2O
product | 5-(2-Chloro-phenyl)-2,3-dimethyl-3H-benzoimidazole-4-carbonitrile | ClC1=C(C=CC=C1)C1=C(C2=C(N=C(N2C)C)C=C1)C#N | C16H12ClN3
